US07304074B2
The suspension of 4-hydroxy-6-methyl-[1,5]naphthyridine-3-carboxylic acid ethyl ester (4.15 g, 17.87 mmol) in 10% KOH (40 mL) was stirred at room temperature for 3.5 hrs. 3 N HCl was added to adjust the pH to 7. The solid was collected by filtration to give 4-hydroxy-6-methyl-[1,5]naphthyridine-3-carboxylic acid (2.58 g, 72%). HR-ES (+) m/e calcd for C10H8N2O3 (M+H) 205.0608. found 205.0608.

reactant | 4-hydroxy-6-methyl-[1,5]naphthyridine-3-carboxylic acid ethyl ester | 17.87 mmol, 4.15 g | C(C)OC(=O)C=1C=NC2=CC=C(N=C2C1O)C | C12H12N2O3
reactant | HCl | 3 N | Cl | ClH
solvent | KOH | 40 mL | [OH-].[K+]
product | 4-hydroxy-6-methyl-[1,5]naphthyridine-3-carboxylic acid | 2.58 g, 72% | OC1=C(C=NC2=CC=C(N=C12)C)C(=O)O | C10H8N2O3
